US08314098B2
Synthesis of N-(4-cyano-benzylidene)-N′-(7-morpholin-4-yl-2-phenyl-pyrazolo[1,5-a]pyrimidin-5-yl)-hydrazine (Compound 51)
There was dissolved, in ethanol (2 mL), trifluoroacetic acid salt of (7-morpholin-4-yl-2-phenyl-pyrazolo[1,5-a]pyrimidin-5-yl)-hydrazine (30.0 mg, 0.0557 mM), then 4-cyano-benzaldehyde (6.7 mg, 0.061 mM) was added to the solution and the mixture was stirred at room temperature for one hour. This reaction liquid was filtered and the resulting solid was purified by the NH-silica gel column chromatography (methanol/methylene chloride=1/20) to thus give the title compound (23.6 mg, yield: quantitative).

reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | (7-morpholin-4-yl-2-phenyl-pyrazolo[1,5-a]pyrimidin-5-yl)-hydrazine | 0.0557 mM, 30.0 mg | N1(CCOCC1)C1=CC(=NC=2N1N=C(C2)C2=CC=CC=C2)NN | C16H18N6O
reactant | 4-cyano-benzaldehyde | 0.061 mM, 6.7 mg | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | N-(4-cyano-benzylidene)-N′-(7-morpholin-4-yl-2-phenyl-pyrazolo[1,5-a]pyrimidin-5-yl)-hydrazine | 23.6 mg, yield: quantitative | C(#N)C1=CC=C(C=NNC2=NC=3N(C(=C2)N2CCOCC2)N=C(C3)C3=CC=CC=C3)C=C1 | C24H21N7O
